US08895733B2
Intermediate 178: tert-Butyl 4-(phenoxymethyl)piperidine-1-carboxylate
tert-Butyl 4-(hydroxymethyl)piperidine-1-carboxylate (0.300 g, 1.393 mmol), phenol (0.122 mL, 1.393 mmol), triphenylphosphine (0.440 g, 1.672 mmol) and N-{[(tert-butoxy)carbonyl]imino}(tert-butoxy)formamide (0.390 g, 1.672 mmol) were combined in THF (4 mL) and stirred at room temperature for 18 h. The reaction mixture was concentrated under reduced pressure and purified by FCC (EtOAc: heptane, 1:1) to afford a white solid. This was further purified by trituration with diethyl ether to afford the title compound (0.289 g, 71%). Method B HPLC-MS: MH+ requires m/z=292 Found: m/z=235 (MH+-tBu), Rt=2.44 min (71%).

reactant | tert-Butyl 4-(hydroxymethyl)piperidine-1-carboxylate | 1.393 mmol, 0.300 g | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | phenol | 1.393 mmol, 0.122 mL | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 1.672 mmol, 0.440 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-{[(tert-butoxy)carbonyl]imino}(tert-butoxy)formamide | 1.672 mmol, 0.390 g | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(phenoxymethyl)piperidine-1-carboxylate | 0.289 g, 71% | O(C1=CC=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO3
